US06916819B2
Trimethylaluminum (2M in toluene)(2.2 mL, 4.4 mmol) is added dropwise under N2 yo a solution of N4-Ethyl-pyridine-3,4-diamine (237 mg, 1.73 mmol) in DCM (5 mL). The mixture is stirred at room temperature for 1 hour. A solution of [2,4′]bithiazolyl-5′-yl-acetic acid ethyl ester (440 mg, 1.73 mmol mmol) in DCM (2 mL) is added. The mixture is reluxed for 3 days. On cooling, the reaction is quenched with water added dropwise and DCM (40 mL) is added. The organic layer is separated and the aqueous layer is extracted with DCM (3×30 mL). The combined organic layers are dried and solvent removed. The residue is purified by PTLC (10% methanol in DCM) to give 2-[2,4′]bithiazolyl-5′-ylmethyl-1-ethyl-1H-imidazo[4,5-c]pyridine as a solid. 1H NMR (CDCl3) δ 9.05 (s, 1H0), 8.76 (s, 1H), 8.41 (d, 1H), 7.88 (d, 1H), 7.41 (d, 1H), 7.25 (d, 1H), 5.35 (8, 2H), 4.26 (q, 2H), 1.25 (t, 3H).

reactant | Trimethylaluminum | 4.4 mmol, 2M, 2.2 mL | C[Al](C)C
reactant | N4-Ethyl-pyridine-3,4-diamine | 1.73 mmol, 237 mg | C(C)NC1=C(C=NC=C1)N | C7H11N3
reactant | [2,4′]bithiazolyl-5′-yl-acetic acid ethyl ester | 1.73 mmol, 440 mg | C(C)OC(CC1=C(N=CS1)C=1SC=CN1)=O | C10H10N2O2S2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-[2,4′]bithiazolyl-5′-ylmethyl-1-ethyl-1H-imidazo[4,5-c]pyridine | S1C(=NC=C1)C=1N=CSC1CC=1N(C2=C(C=NC=C2)N1)CC | C15H13N5S2
